US06376555B1
Preparation of 3-(4-trifluoromethyl-phenyl)-4-(1,2,2-trimethylpropylamino)-cyclobut-3-ene-1,2-dione.
In a manner similar to Example 9, Step 2, 3-isopropoxy-4-(4-trifluoromethyl-phenyl)-cyclobut-3-ene-1,2-dione (0.40 g, 1.408 mmol) and 2-amino-3,3-dimethylbutane (0.28 mL, 2.11 mmol) were converted to the title compound. Recrystallization from hot ethyl acetate afforded 0.18 g (39%) of compound as a white solid: m.p. 191-193° C.; 1H NMR (DMSO-d6) δ 8.97(br d,1H), 8.22(ABq,2H), 7.88(ABq,2H), 4.30(m,1H), 1.26(d,3H), 0.92(s,9H); IR (KBr) 3450, 3180, 2970, 1775, 1740, 1600, 1420, 1370, 1170, 1110, 1060, 850 cm−1; MS (m/z) 325 [M+].

reactant | 3-isopropoxy-4-(4-trifluoromethyl-phenyl)-cyclobut-3-ene-1,2-dione | 1.408 mmol, 0.40 g | C(C)(C)OC=1C(C(C1C1=CC=C(C=C1)C(F)(F)F)=O)=O | C14H11F3O3
reactant | 2-amino-3,3-dimethylbutane | 2.11 mmol, 0.28 mL | NC(C)C(C)(C)C | C6H15N
product | 3-(4-trifluoromethyl-phenyl)-4-(1,2,2-trimethylpropylamino)-cyclobut-3-ene-1,2-dione | FC(C1=CC=C(C=C1)C=1C(C(C1NC(C(C)(C)C)C)=O)=O)(F)F | C17H18F3NO2
